US07498440B2
Preparation of 1-[3-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)propyl]-4-[hydroxy(diphenyl)methyl]-1-azoniabicyclo[2.2.2]octane bromide
Following the general procedure outlined in Example 3, 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol (0.0861 g, 0.293 mmol) and 2-(3-bromopropyl)-1H-isoindole-1,3(2H)-dione (0.118 g, 0.440 mmol) in 2 CH3CN/3 CHCl3 (5.0 mL) were reacted to give the desired product (0.1319 g, 82.4%). EI-MS m/z 481(M+) Rt (1.90 min).

reactant | 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol | 0.293 mmol, 0.0861 g | N12CCC(CC1)(CC2)C(O)(C2=CC=CC=C2)C2=CC=CC=C2 | C20H23NO
reactant | 2-(3-bromopropyl)-1H-isoindole-1,3(2H)-dione | 0.440 mmol, 0.118 g | BrCCCN1C(C2=CC=CC=C2C1=O)=O | C11H10BrNO2
solvent | CH3CN | 5.0 mL | CC#N | C2H3N
product | 1-[3-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)propyl]-4-[hydroxy(diphenyl)methyl]-1-azoniabicyclo[2.2.2]octane bromide | 0.1319 g, 82.4% | [Br-].O=C1N(C(C2=CC=CC=C12)=O)CCC[N+]12CCC(CC1)(CC2)C(C2=CC=CC=C2)(C2=CC=CC=C2)O | InChI=1S/C31H33N2O3.BrH/c34-28-26-14-7-8-15-27(26)29(35)32(28)19-9-20-33-21-16-30(17-22-33,18-23-33)31(36,24-10-3-1-4-11-24)25-12-5-2-6-13-25;/h1-8,10-15,36H,9,16-23H2;1H/q+1;/p-1
